US07030128B2
2-Bromo-5-trifluoromethylpyridine (1.70 g, 7.5 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (3.8 mmol) by the method of Example 1. Purification by chromatography on silica gel eluting with dichloromethane containing 1% methanol, then crystallisation from toluene, gave 7-trifluoromethyl-3-(5-trifluoromethylpyridin-2-yl)imidazo[1,2-α]pyrimidine as a yellow solid: δH (400 MHz, CDCl3) 10.52 (1H, d, J 7), 8.94-8.97 (1H, m), 8.63 (1H, s), 8.03-8.07 (1H, m), 7.96 (1H, d, J 9), 7.41 (1H, d, J 7); m/z (ES+) 333 (M++H).

reactant | 2-Bromo-5-trifluoromethylpyridine | 7.5 mmol, 1.70 g | BrC1=NC=C(C=C1)C(F)(F)F | C6H3BrF3N
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 3.8 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 7-trifluoromethyl-3-(5-trifluoromethylpyridin-2-yl)imidazo[1,2-α]pyrimidine | FC(C1=NC=2N(C=C1)C(=CN2)C2=NC=C(C=C2)C(F)(F)F)(F)F | C13H6F6N4
